US07872014B2
To an ice-cooled solution of benzyl-glycine ethyl ester (5.50 mL, 30.0 mmol) in tetrahydrofuran (100 mL) triethylamine (12.54 mL, 90.0 mmol) was added, followed by the dropwise addition of a solution of di-tert-butyl-dicarbonate (7.20 g, 33.0 mmol) in tetrahydrofuran (50 mL). The reaction mixture was stirred for 18 h at room temperature. The solvent was evaporated and the crude was dissolved in ethyl acetate. The organic layer was washed with water, 10% aqueous citric acid and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting crude product was purified by column chromatography (hexane-ethyl acetate 9:1) to give ethyl N-{[(1,1-dimethylethyl)oxy]carbonyl}-N-(phenylmethyl)glycinate (7.6 g, 86%). 1H-NMR (400 MHz, CDCl3): 7.28 (m, 5H), 4.51, 4.55 (2 s, 2H), 4.16 (2 dd, 4H), 3.91, 3.78 (2 s, 2H), 1.47 (s, 9H), 1.25 (2 t, 3H), GCMS for C16H23NO4: 192 (M-Boc+), 237 (M-tBu+).

reactant | benzyl-glycine ethyl ester | 30.0 mmol, 5.50 mL | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
reactant | di-tert-butyl-dicarbonate | 33.0 mmol, 7.20 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90.0 mmol, 100 mL | O1CCCC1 | C4H8O
product | ethyl N-{[(1,1-dimethylethyl)oxy]carbonyl}-N-(phenylmethyl)glycinate | 7.6 g, 86% | CC(C)(C)OC(=O)N(CC(=O)OCC)CC1=CC=CC=C1 | C16H23NO4
